US06903129B2
A mixture of 1.20 g (2.5 mmol) (R)-1-[6-[(R)-2-pent-4-enyloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid pent-4-enyl ester and 40 mg benzylidene-bis(tricyclohexylphosphine)dichlororuthenium in 30 ml dry dichloromethane was stirred at 50° C. overnight. Removal of the solvent and chromatography on silicagel with ethylacetate/acetone with a ratio of 8/2 gave 430 mg (38%) (12R,25R)-14,23-dioxa-1,8-diaza-tricyclo[23.3.0.0 8,12]octacos-18-ene-2,7,13,24-tetraone as an oil, MS m/e (%): 449 (M+H+, 100).

reactant | (R)-1-[6-[(R)-2-pent-4-enyloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid pent-4-enyl ester | 2.5 mmol, 1.20 g | C(CCC=C)OC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCCCC=C)=O | C26H40N2O6
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | benzylidene-bis(tricyclohexylphosphine)dichlororuthenium | 40 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | (12R,25R)-14,23-dioxa-1,8-diaza-tricyclo[23.3.0.0 8,12]octacos-18-ene-2,7,13,24-tetraone | 430 mg, 38% | N12C(CCCCC(N3CCC[C@@H]3C(OCCCC=CCCCOC([C@H]2CCC1)=O)=O)=O)=O | C24H36N2O6
